US06348461B1
Ethyl 3-ethoxy-6-nitro-7-(4-(trifluoroacetamidomethyl)imidazolyl)quinoxaline-2-carboxylate
To a solution of ethyl 3-ethoxy-7-fluoro-6-nitroquinoxaline-2-carboxylate (308 mg, 999 μmol) and 4-(trifluoroacetamidomethyl)imidazole (1.72 g, 8.91 mmol) in acetonitrile (10 ml) was added triethylamine (3.00 ml, 21.5 mmol), and the mixture was stirred for 15 hours at 130° C. in sealed tube. The reaction mixture was concentrated under reduced pressure and the residue obtained was purified by means of silica gel column chromatography [methylene chloride] to obtain 179 mg of the title compound as light brown powder. Yield 37%.

reactant | ethyl 3-ethoxy-7-fluoro-6-nitroquinoxaline-2-carboxylate | 999 μmol, 308 mg | C(C)OC=1C(=NC2=CC(=C(C=C2N1)[N+](=O)[O-])F)C(=O)OCC | C13H12FN3O5
reactant | 4-(trifluoroacetamidomethyl)imidazole | 8.91 mmol, 1.72 g | FC(C(=O)NCC=1N=CNC1)(F)F | C6H6F3N3O
reactant | triethylamine | 21.5 mmol, 3.00 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Ethyl 3-ethoxy-6-nitro-7-(4-(trifluoroacetamidomethyl)imidazolyl)quinoxaline-2-carboxylate | 179 mg, Yield 37% | C(C)OC=1C(=NC2=CC(=C(C=C2N1)[N+](=O)[O-])C=1NC=C(N1)CNC(C(F)(F)F)=O)C(=O)OCC | C19H17F3N6O6
